US07253197B2
N-Dimethylaminomethylene-3-(3-dimethylaminomethylene-thioureido)-benzenesulfonamide
A mixture of 2.3 g (9.9 mmol) 3-Thioureido-benzenesulfonamide and 17 ml N,N-Dimethylformamide dimethyl acetal was heated for 2 h to 90° C. The precipitate was filtered of washed with DCM/diethyl ether 1:3 and dried to yield 2.8 g (82%) of the title compound.

reactant | 3-Thioureido-benzenesulfonamide | 9.9 mmol, 2.3 g | N(C(=S)N)C=1C=C(C=CC1)S(=O)(=O)N | C7H9N3O2S2
reactant | N,N-Dimethylformamide dimethyl acetal | 17 ml | COC(N(C)C)OC | C5H13NO2
product | N-Dimethylaminomethylene-3-(3-dimethylaminomethylene-thioureido)-benzenesulfonamide | 2.8 g, 82% | CN(C)C=NS(=O)(=O)C1=CC(=CC=C1)NC(=S)N=CN(C)C | C13H19N5O2S2
